US04891432
To a solution of 2.16 g ethyl 6-[p-(5-bromopentyloxy]phenoxy)-2,2-dimethylhexanoate in 10 ml DMF, was added with stirring 0.55 g sodium salt of 1,2,4-triazole at room temperature, and stirring was continued overnight. DMF was distilled off under reduced pressure, the residue was extracted with chloroform, and the extract was washed with water, dried and concentrated. The crude product thus obtained was purified by silica gel column chromatography, affording 1.21 g of ethyl 6-[p-[5-(1,2,4-triazol-1-yl)pentyloxy]phenoxy]-2,2-dimethylhexanoate.

reactant | ethyl 6-[p-(5-bromopentyloxy]phenoxy)-2,2-dimethylhexanoate | 2.16 g | BrCCCCCOC1=CC=C(OCCCCC(C(=O)OCC)(C)C)C=C1 | C21H33BrO4
reactant | sodium | 0.55 g | [Na] | Na
reactant | 1,2,4-triazole | N1N=CN=C1 | C2H3N3
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | ethyl 6-[p-[5-(1,2,4-triazol-1-yl)pentyloxy]phenoxy]-2,2-dimethylhexanoate | 1.21 g | N1(N=CN=C1)CCCCCOC1=CC=C(OCCCCC(C(=O)OCC)(C)C)C=C1 | C23H35N3O4
